US05834468
Ethylamine (70% solution, 5.2 ml, 80 mmol) was diluted with water (5.2 ml). A solution of 2-bromomethylphenyl phenyl ether (5.0 g, 19.02 mmol) in THF (25 ml) was added dropwise and the reaction stirred at ambient temperature for 2 hours. The volatile components were removed at reduced pressure, aqueous sodium hydroxide (1N, 20 ml) was added and the aqueous solution extracted with dichloromethane (2×). The organic layers were dried (MgSO4), evaporated and purified by chromatography (eluant: CH2 Cl2 /EtOAc/MeOH) to give N-ethyl-N-(2-(phenoxy)benzyl)amine as a yellow solid (2.2 g, 51%).

reactant | Ethylamine | 80 mmol, 5.2 ml | C(C)N | C2H7N
reactant | 2-bromomethylphenyl phenyl ether | 19.02 mmol, 5.0 g | C1(=CC=CC=C1)OC1=C(C=CC=C1)CBr | C13H11BrO
solvent | water | 5.2 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-ethyl-N-(2-(phenoxy)benzyl)amine | 2.2 g, 51% | C(C)NCC1=C(C=CC=C1)OC1=CC=CC=C1 | C15H17NO
